US07166621B2
Stage 3: Preparation of 2-(5-chloro-3-pyridyloxy)-N-(2-methylpent-3-yn-2-yl)butyramide
To a stirred solution of 4-aminomethyl-pent-2-yne hydrochloride (2.67 g; prepared as described below) in dry N,N-dimethyl formamide (150 ml) at ambient temperature was added dry triethylamine (4.2 ml). The mixture was stirred at ambient temperature for 5 minutes and 1-hydroxybenzotriazole hydrate (2.97 g), N-(3-dimethylaminopropyl)-N′-ethyl carbodiimide hydrochloride (4.22 g) and 2-(5-chloro-3-pyridyloxy)butyric acid (4.53 g) were added sequentially. The mixture was stirred at ambient temperature for 2.75 hours, stored at ambient temperature for 18 hour and poured into water. The product was extracted into diethyl ether (three times) and the extracts were combined, washed with aqueous sodium o hydrogen carbonate (twice), water (twice) and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residual gum fractionated by chromatography (silica: diethyl ether) to give a pale yellow oil, which was triturated with hexane to give the required product as a colourless solid, 4.5 g, m.p. 87–89° C.

reactant | 4-aminomethyl-pent-2-yne hydrochloride | 2.67 g | Cl.NCC(C#CC)C
reactant | 1-hydroxybenzotriazole hydrate | 2.97 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethyl carbodiimide hydrochloride | 4.22 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-(5-chloro-3-pyridyloxy)butyric acid | 4.53 g | ClC=1C=C(C=NC1)OC(C(=O)O)CC | C9H10ClNO3
solvent | N,N-dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
product | 2-(5-chloro-3-pyridyloxy)-N-(2-methylpent-3-yn-2-yl)butyramide | ClC=1C=C(C=NC1)OC(C(=O)NC(C)(C#CC)C)CC | C15H19ClN2O2
